US06593355B2
m. (R)-2-[4-[N-(4-methyl-phenylcarbonyl)-amidino]-phenylaminomethyl]-1-methyl-5-[1-(ethoxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole
A suspension of 0.7 g (1.2 mmol) of (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(ethoxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-dihydrochloride in 25 ml of methylene chloride is combined with 4.0 ml (28 mmol) of triethylamine and 0.8 g (3.0 mmol) of 4-nitrophenyl 4-methyl-benzoate and heated to 50° C. for 3.5 hours, whereupon a clear solution is formed. After cooling, it is washed with sodium bicarbonate solution, saline solution and water, dried over magnesium sulphate and concentrated by evaporation. The crude product is purified on silica gel, eluting with ethyl acetate/ethanol (50:1 and 9:1). The uniform fractions are combined, concentrated by evaporation, triturated with ether, suction filtered and dried.

reactant | (R)-2-(4-amidinophenylaminomethyl)-1-methyl-5-[1-(ethoxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole-dihydrochloride | 1.2 mmol, 0.7 g | Cl.Cl.C(N)(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)OCC
reactant | triethylamine | 28 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl 4-methyl-benzoate | 3.0 mmol, 0.8 g | CC1=CC=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H11NO4
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | (R)-2-[4-[N-(4-methyl-phenylcarbonyl)-amidino]-phenylaminomethyl]-1-methyl-5-[1-(ethoxycarbonylmethylamino)-1-(pyrrolidinocarbonyl)-ethyl]-benzimidazole | CC1=CC=C(C=C1)C(=O)NC(=N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)[C@](C)(C(=O)N2CCCC2)NCC(=O)OCC | C35H41N7O4
